US07897766B2
5-(Pyridin-2-yl)-thiophene-2-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-(2-pyridyl)thiophene-2-carboxylic acid (Maybridge) according to methods A and C; yield 49 mg, 0.14 mmol (66%): 1H NMR (300 MHz, methanol-d4) δ 1.98 (d, J=14 Hz, 2H), 2.21 (s, 1H), 2.34 (d, J=14 Hz, 2H), 2.50 (s, 2H), 3.58 (s, 2H), 3.68 (s, 4H), 4.41 (s, 1H), 7.75 (dt, J=7, 6, 1 Hz, 1H), 7.92 (d, J=4 Hz, 1H), 8.00 (d, J=4 Hz, 1H), 8.21 (d, J=8 Hz, 1H), 8.34 (dt, J=8, 2 Hz, 1H), 8.69 (d, J=5 Hz, 1H); MS (DCI/NH3) m/z 340 (M+H)+; Anal. C21H21F3N2O2.2HCl.0.2H2O.0.1C4H8O2: C, H, N.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@@H](C(CC(C1)C3)C2)N
reactant | 5-(2-pyridyl)thiophene-2-carboxylic acid | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C10H7NO2S
reactant | NH3 | N | H3N
product | 5-(Pyridin-2-yl)-thiophene-2-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide dihydrochloride | Cl.Cl.N12CC3[C@@H](C(CC(C1)C3)C2)NC(=O)C=2SC(=CC2)C2=NC=CC=C2 | InChI=1S/C19H21N3OS.2ClH/c23-19(17-5-4-16(24-17)15-3-1-2-6-20-15)21-18-13-7-12-8-14(18)11-22(9-12)10-13;;/h1-6,12-14,18H,7-11H2,(H,21,23);2*1H/t12?,13?,14?,18-;;
